US04062881
Into a 2 liter flask is placed 204 gm (1.0 mole) 2-mercapto-ethylcaprylate, 200 ml water, 84 gm (1.0 mole) sodium bicarbonate and 300 ml heptane. To the above stirred mixture is added dropwise, at 30°-40° C., 110 gms (0.5 mole) dimethyltin dichloride dissolved in 200 ml water. Stir for 1 hour at 30°-40° C. and allow the layers to separate. The organic layer is washed with 200 ml water and then stripped under vacuum at about 100° C. A yield of 273 gm of dimethyltin bis(2-mercaptoethyl caprylate) is obtained. nD25 1.5060.

reactant | 2-mercapto-ethylcaprylate | 1.0 mole, 204 gm | SCCC(C(=O)[O-])CCCCCC
reactant | sodium bicarbonate | 1.0 mole, 84 gm | C([O-])(O)=O.[Na+]
reactant | heptane | 300 ml | CCCCCCC | C7H16
reactant | dimethyltin dichloride | 0.5 mole, 110 gms | C[Sn](C)(Cl)Cl
solvent | water | 200 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | dimethyltin bis(2-mercaptoethyl caprylate) | yield of 273 gm | SCCC(C(=O)[O-])CCCCCC.SCCC(C(=O)[O-])CCCCCC.C[Sn+2]C | InChI=1S/2C10H20O2S.2CH3.Sn/c2*1-2-3-4-5-6-9(7-8-13)10(11)12;;;/h2*9,13H,2-8H2,1H3,(H,11,12);2*1H3;/q;;;;+2/p-2
